.title KiCad schematic
.include "/home/lucas/kicad_lib/XSPICE-models-symbols-12/Simulation_XSPICE.sp"
.save all
.param vcc=5.0
.tran 1u 60m
V1 /signal 0 DC 0.5 SIN( 0.5 0.5 50 0 0 270 ) AC 1  
XU1 /signal 0 /PB1 H_PWM dc1=0.01 dc2=0.99 freq=2k
C1 /filter_output 0 150n
R1 /PB1 /filter_output 4.7k
.end

